US08026257B2
DBU (0.020 mL, 0.130 mmol) was added to a solution of (±)-5-chloro-7-(1-hydroxyethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indole-3-carbonitrile (456 mg, 1.299 mmol) and Trichloroacetonitrile (0.391 mL, 3.90 mmol) in THF (10 mL) and the reaction was stirred for one hour. The solvent was evaporated and the reaction was purified by chromatography on SiO2 with 10:89:1 ethyl acetate/hexanes/triethylamine to give (±)-1-(5-chloro-3-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indol-7-yl)ethyl 2,2,2-trichloroacetimidate (472 mg, 0.953 mmol, 73.3% yield) as a clear oil. 1H-NMR (CDCl3, 400 MHz) δ 8.22 (s, 1H), 7.66 (d, J=2.0 Hz, 1H), 7.61 (s, 1H), 7.52 (d, J=2.0 Hz, 1H), 6.60 (q, J=6.3 Hz, 1H), 6.27 (d, J=11.3 Hz, 1H), 5.25 (d, J=11.3 Hz, 1H), 3.48 (m, 2H), 1.72 (d, J=6.3 Hz, 3H), 0.80-1.05 (m, 2H), −0.02 (s, 9H).

reactant | DBU | 0.130 mmol, 0.020 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | (±)-5-chloro-7-(1-hydroxyethyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indole-3-carbonitrile | 1.299 mmol, 456 mg | ClC=1C=C2C(=CN(C2=C(C1)C(C)O)COCC[Si](C)(C)C)C#N | C17H23ClN2O2Si
reactant | Trichloroacetonitrile | 3.90 mmol, 0.391 mL | ClC(C#N)(Cl)Cl | C2Cl3N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (±)-1-(5-chloro-3-cyano-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-indol-7-yl)ethyl 2,2,2-trichloroacetimidate | 0.953 mmol, 472 mg, 73.3% yield | ClC(C(OC(C)C=1C=C(C=C2C(=CN(C12)COCC[Si](C)(C)C)C#N)Cl)=N)(Cl)Cl | C19H23Cl4N3O2Si
